US07713994B2
To a suspension of 7-bromo-1,4-dihydro-2H-isoquinolin-3-one (450 mg, 2 mmol) in 1 mL of N,N-dimethylformamide is added N,N-dimethylformamide dimethylacetal (954 mg, 8 mmol). The reaction mixture is heated in a microwave at 100° C. for 10 min. The reaction mixture is then filtered and washed with N,N-dimethylformamide to give 356 mg of 7-bromo-4-dimethylaminomethylene-1,4-dihydro-2H-isoquinolin-3-one.

reactant | 7-bromo-1,4-dihydro-2H-isoquinolin-3-one | 2 mmol, 450 mg | BrC1=CC=C2CC(NCC2=C1)=O | C9H8BrNO
reactant | N,N-dimethylformamide dimethylacetal | 8 mmol, 954 mg | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 7-bromo-4-dimethylaminomethylene-1,4-dihydro-2H-isoquinolin-3-one | 356 mg | BrC1=CC=C2C(C(NCC2=C1)=O)=CN(C)C | C12H13BrN2O
